US06673931B2
In analogy to the procedure described in example 1 (e) the (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-(4-hydroxy-phenyl)-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester was treated with the 2-(3-chloro-propoxymethyl)-4-fluoro-1-methoxy-benzene [example 11 (a)]to yield the (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-[4-[3-(5-fluoro-2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as light yellow oil; MS: 790 (M+H)+.

reactant | (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-(4-hydroxy-phenyl)-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)O)OC[C@@H]1OC(OC1)(C)C | C34H43NO8
reactant | 2-(3-chloro-propoxymethyl)-4-fluoro-1-methoxy-benzene | ClCCCOCC1=C(C=CC(=C1)F)OC | C11H14ClFO2
product | (3S,4R,5R)-3-[(4S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-4-[4-[3-(5-fluoro-2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOCC1=C(C=CC(=C1)F)OC)OC[C@@H]1OC(OC1)(C)C | C45H56FNO10
